US06074650
XIII. N,S-Dipalmitoylcysteine
N,S-Dipalmitoylcysteine tert.-butyl ester (1 g, 1.5 mmol) is treated with anhydrous trifluoroacetic acid for 1 h. The latter is then removed in a rotary evaporator under high vacuum, and the residue is taken up in tert.-butanol and freeze-dried.

reactant | N,S-Dipalmitoylcysteine tert.-butyl ester | 1.5 mmol, 1 g | C(C)(C)(C)OC([C@@H](NC(CCCCCCCCCCCCCCC)=O)CSC(CCCCCCCCCCCCCCC)=O)=O | C39H75NO4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N,S-Dipalmitoylcysteine | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CSC(CCCCCCCCCCCCCCC)=O)C(=O)O | C35H67NO4S
